US09238633B2
Synthesis of (R)-carbamic acid 3-[4-(4-chloro-phenyl)-piperazine-1-yl]-3-oxo-1-phenyl-propyl ester
1.0 g (6.0 mmole) of (R)-3-hydroxy-3-phenylpropionic acid and 1.18 g (6.0 mmole) of 4-chloro phenylpiperazine were dissolved in 50 mL of tetrahydrofurane as a solvent at room temperature, and 1.24 g (6.0 mmole) of EDC and 0.81 g (6 mmole) of HOBt were dropped thereinto and stirred at a temperature of 25° C. for 5 hours. Excess solvent was removed therefrom by distillation under reduced pressure, and the resultant product was neutralized with 20 mL of 1 N aqueous sodium chloride solution, and 25 mL of ethyl acetate was added thereto and an obtained organic layer was isolated and extracted twice with 15 mL of ethyl acetate. The organic layer was dried with 2 g of anhydrous magnesium sulfate and filtered, and a filtrate was concentrated under reduced pressure and isolation-purified by column chromatograph (hexane:ethyl acetate=1:1 to 1:10). 0.345 g (1 mmole) of an obtained product was dissolved in 15 mL of tetrahydrofurane and then 0.325 g (2 mmole) of 1,1′-carbodimidazole was added thereto and stirred for 1 hour at room temperature, and then, an excess ammonia solution was added thereto and stirred for 2 hours at room temperature. A reaction mixture was diluted with water and extracted several times with ethyl acetate, and an obtained organic layer was dried with magnesium sulfate, and concentrated under reduced pressure. An obtained residue was purified by column chromatography (hexane:ethyl acetate=1:1), thereby producing a target compound (Amount: 1.2 g, Yield: 52.5%).

reactant | (R)-3-hydroxy-3-phenylpropionic acid | 6.0 mmole, 1.0 g | O[C@H](CC(=O)O)C1=CC=CC=C1 | C9H10O3
reactant | 4-chloro phenylpiperazine | 6.0 mmole, 1.18 g | ClC1=CC=C(C=C1)N1CCNCC1 | C10H13ClN2
reactant | EDC | 6.0 mmole, 1.24 g
reactant | HOBt | 6 mmole, 0.81 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | ammonia | N | H3N
reactant | tetrahydrofurane | 50 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofurane | 15 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | (R)-carbamic acid 3-[4-(4-chloro-phenyl)-piperazine-1-yl]-3-oxo-1-phenyl-propyl ester | Yield: 52.5% | ClC1=CC=C(C=C1)N1CCN(CC1)C(C[C@H](C1=CC=CC=C1)OC(N)=O)=O | C20H22ClN3O3
